### PR TITLE
feat(ErdosProblems): 346

### LINKED ISSUE #502: Erdős Problem 346
### What is the conjecture
    
https://www.erdosproblems.com/346

  Let $A=\{a_1< a_2<\cdots\}$ be a set of integers such that$A\\ B$ is complete for any finite subset $B$ and$A\\ B$ is not complete for any infinite subset $B$. Is it true that if $a_{n+1}/a_n \geq 1+\epsilon$ for some $\epsilon>0$ and all $n$ then $\lim_n \frac{a_{n+1}}{a_n}=\frac{1+\sqrt{5}}{2}?$

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by CoolRmal**
Closes #502

Erdos defines a sequence `A` to be strongly complete in [ErGr80] if `A n, A (n + 1), ...` is complete for every `n`, which is equivalent with saying that `A \ B` is complete for any finite subset `B`.

I'll let Artistotle try `erdos_346.f_isLacunary`, `erdos_346.gt_goldenRatio_not_IsAddComplete`, and `erdos_346.example` because Erdős and Graham claim they are not hard...

### CODE REVIEW

File: FormalConjectures/ErdosProblems/346.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
...
+    (∀ B : Set ℕ, B.Infinite → ¬ IsAddComplete (range A \ B)) →
+    Tendsto (fun n => A (n + 1) / (A n : ℝ)) atTop (𝓝 ((1 + √5) / 2)) := by
+  sorry
+
+/-- We define a sequence `f` by the formula `f n = n.fib - (- 1) ^ n`. -/
+def f (n : ℕ) : ℕ := if Even n then n.fib - 1 else n.fib + 1
+
+/-- The sequence `f` is Lacunary. -/
+@[category research solved, AMS 11]
+theorem erdos_346.f_isLacunary : IsLacunary f := by sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/346.lean]: Finding the `f` was a research problem, but surely checking that it works isn't? What do you think of `test` instead?

File: FormalConjectures/ErdosProblems/346.lean [hunk 2]
```diff
@@ -0,0 +1,77 @@
...
+
+/-- Erdős and Graham [ErGr80] remark that it is easy to see that if `A (n + 1) / A n > (1 + √5) / 2`
+then the second property is automatically satisfied. -/
+@[category research solved, AMS 11]
+theorem erdos_346.gt_goldenRatio_not_IsAddComplete {A : ℕ → ℕ}
+    (hA : ∀ n, (1 + √5) / 2 * A n < A (n + 1)) {B : Set ℕ} (hB : B.Infinite) :
+    ¬ IsAddComplete (range A \ B) := by
+  sorry
+
+/-- Erdős and Graham [ErGr80] also says that it is not hard to construct very irregular sequences
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/346.lean]:
```suggestion
/-- Erdős and Graham [ErGr80] also say that it is not hard to construct very irregular sequences
```

File: FormalConjectures/ErdosProblems/346.lean [hunk 3]
```diff
@@ -0,0 +1,77 @@
...
+satisfying the aforementioned properties. -/
+@[category research solved, AMS 11]
+theorem erdos_346.example : ∃ A : ℕ → ℕ, IsLacunary A ∧ IsAddStronglyCompleteNatSeq A ∧
+    ∀ B : Set ℕ, B.Infinite → ¬ IsAddComplete (range A \ B) ∧
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/346.lean]:
```suggestion
    (∀ B : Set ℕ, B.Infinite → ¬ IsAddComplete (range A \ B)) ∧
```

File: FormalConjectures/ErdosProblems/346.lean [hunk 4]
```diff
@@ -0,0 +1,77 @@
...
+    liminf (fun n => A (n + 1) / (2 : ℝ)) atTop = 1 ∧
+    limsup (fun n => A (n + 1) / (A n : ENNReal)) atTop = ⊤ := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/346.lean:74]: Is it what is meant by "very irregular"? I find that a bit confusing. Why 2?

File: FormalConjectures/ErdosProblems/346.lean [hunk 5]
```diff
@@ -0,0 +1,77 @@
...
+@[category research open, AMS 11]
+theorem erdos_346 : answer(sorry) ↔ ∀ {A : ℕ → ℕ}, IsLacunary A → IsAddStronglyCompleteNatSeq A →
+    (∀ B : Set ℕ, B.Infinite → ¬ IsAddComplete (range A \ B)) →
+    Tendsto (fun n => A (n + 1) / (A n : ℝ)) atTop (𝓝 ((1 + √5) / 2)) := by
+  sorry
+
+/-- We define a sequence `f` by the formula `f n = n.fib - (- 1) ^ n`. -/
+def f (n : ℕ) : ℕ := if Even n then n.fib - 1 else n.fib + 1
+
+/-- The sequence `f` is Lacunary. -/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/346.lean]:
```suggestion
/-- The sequence `f` is lacunary. -/
```

File: FormalConjectures/ErdosProblems/346.lean [hunk 6]
```diff
@@ -0,0 +1,77 @@
...
+    theory. Monographies de L'Enseignement Mathematique (1980).
+ -
+-/
+
+open Filter Topology Set
+
+namespace Erdos346
+
+/-- Is it true that for every lacunary, strongly complete sequence `A` is not complete whenever
+infinitely many terms are removed from it, `lim A (n + 1) / A n = (1 + √5) / 2`? -/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/346.lean]: This sentence doesn't make sense grammatically

File: FormalConjectures/ErdosProblems/346.lean [hunk 7]
```diff
@@ -0,0 +1,77 @@
...
+@[category research open, AMS 11]
+theorem erdos_346 : answer(sorry) ↔ ∀ {A : ℕ → ℕ}, IsLacunary A → IsAddStronglyCompleteNatSeq A →
+    (∀ B : Set ℕ, B.Infinite → ¬ IsAddComplete (range A \ B)) →
+    Tendsto (fun n => A (n + 1) / (A n : ℝ)) atTop (𝓝 ((1 + √5) / 2)) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/346.lean]: Aren't you missing the condition that `A (n + 1) >= eps * A n`? And that `A` is strictly monotone?

File: FormalConjectures/ErdosProblems/346.lean (hunk 4 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/346.lean:74]: No I don't think it is a definition. I think they just mean that `liminf (fun n => A (n + 1) / (2 : ℝ)) atTop = 1 ∧ limsup (fun n => A (n + 1) / (A n : ENNReal)) atTop = ⊤` is a weird property.

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/346.lean:74]: But where did you get `A (n + 1) / 2` from? Didn't you mean `A (n + 1) / A n`?

File: FormalConjectures/ErdosProblems/346.lean (hunk 7 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/346.lean]: The condition is `A (n + 1) >= (1 + eps) * A n`, which is then equivalent with the definition of `IsLacunary`. `IsLacunary` also implies strict monotonicity.

File: FormalConjectures/ErdosProblems/346.lean (hunk 4 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/346.lean:74]: Oh it is in their book [ErGr80]. 
Screenshot 2026-01-04 at 11 23 35 AM

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/346.lean:74]: That is weird, looks like a typo, but okay

File: FormalConjectures/ErdosProblems/346.lean [hunk 8]
```diff
@@ -0,0 +1,77 @@
...
+
+/-- The sequence `f` is strongly complete, and this is proved in [Gr64d]. -/
+@[category test, AMS 11]
+theorem erdos_346.f_isAddStronglyCompleteNatSeq : IsAddStronglyCompleteNatSeq f := by sorry
+
+/-- The sequence `f` is not complete whenever infinitely many terms are removed from it, and this
+is proved in [Gr64d]. -/
+@[category test, AMS 11]
+theorem erdos_346.f_not_isAddCompleteNatSeq {B : Set ℕ} (hB : B.Infinite) :
+    ¬ IsAddComplete (range f \ B) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/346.lean]: Do you mean `IsAddCompleteNatSeq` or is `IsAddComplete`? There's a mismatch between the lemma name and statement

File: FormalConjectures/ErdosProblems/346.lean (hunk 4 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/346.lean:74]: I just spent a moment to think about this seriously and realized that these conditions make no sense at all. `liminf (fun n => A (n + 1) / (2 : ℝ)) atTop = 1` implies that `A n` is roughly equal to 2 infinitely often, so `A` is definitely not going to be strictly monotone. Perhaps they don't assume that this irregular sequence `IsLacunary`? which actually also justifies why they use the word irregular...

File: FormalConjectures/ErdosProblems/346.lean [hunk 9]
```diff
@@ -0,0 +1,77 @@
...
+    (∀ B : Set ℕ, B.Infinite → ¬ IsAddComplete (range A \ B)) →
+    Tendsto (fun n => A (n + 1) / (A n : ℝ)) atTop (𝓝 ((1 + √5) / 2)) := by
+  sorry
+
+/-- We define a sequence `f` by the formula `f n = n.fib - (- 1) ^ n`. -/
+def f (n : ℕ) : ℕ := if Even n then n.fib - 1 else n.fib + 1
+
+/-- The sequence `f` is lacunary. -/
+@[category test, AMS 11]
+theorem erdos_346.f_isLacunary : IsLacunary f := by sorry
```
Comment (CoolRmal) [inline FormalConjectures/ErdosProblems/346.lean:47]: Ok this sequence is definitely not lacunary:

```
/-- We define a sequence `f` by the formula `f n = n.fib - (- 1) ^ n`. -/
def f (n : ℕ) : ℕ := if Even n then n.fib - 1 else n.fib + 1

#eval f 1 -- 2
#eval f 2 -- 0
#eval f 3 -- 3
#eval f 4 -- 2
#eval f 5 -- 6
#eval f 6 -- 7
#eval f 7 -- 14
```

I guess they only care about the tail behavior of this sequence. Do you think we should delete this or replace it by

```
theorem erdos_346.f_isLacunary : IsLacunary (fun n => f (n + 4) := by sorry
```

File: FormalConjectures/ErdosProblems/346.lean (hunk 4 above)
Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/346.lean:74]: I am personally expecting they meant `liminf (fun n => A (n + 1) / A n) = 1`, which forbids lacunary sequences still

File: FormalConjectures/ErdosProblems/346.lean (hunk 9 above)
Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/346.lean:47]: Maybe we should change `IsLacunary` to only be about the tail behavior?

File: FormalConjectures/ErdosProblems/346.lean (hunk 4 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/346.lean:74]: Ok in any case we should delete the lacunary assumption, which I will do in another PR later.

File: FormalConjectures/ErdosProblems/346.lean (hunk 9 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/346.lean:47]: I am not sure about this. You'll lose strict monotonicity if you only define it about the tail behavior, and then it may be strange to state a theorem like this: https://en.wikipedia.org/wiki/Ostrowski%E2%80%93Hadamard_gap_theorem.
